US03974161
Ethyl 3-Methyl-7,8-Dimethoxypyrimido[4,5-b]quinolin-4(3H)-One-2-Carboxylate
Sodium hydride (470 mg. of 50% in oil, 0.011 mole) is added to a slurry of ethyl 7,8-dimethoxypyrimido[4,5-b]quinolin-4(3H)-one-2-carboxylate (3.3 g., 0.01 mole) in N,N-dimethylformamide (75ml.). The mixture is stirred and heated on a steambath for ten minutes and then at room temperature for a half hour. It is cooled in an ice-bath and iodomethane (2.1 g., 0.015 mole) added dropwise over a 30 minute period. Following completion of addition, the mixture is stirred for an additional 15 minutes in an ice-bath and then for a half-hour at room temperature. The reaction mixture is poured into ice-water (200 ml.) and the resulting solid filtered off, air-dried, and recrystallized from ethanol to give 2.1 g. of yellow crystals (61.2%); m.p. 211.5°C. (dec.)

reactant | Sodium hydride | 0.011 mole, 470 mg | [H-].[Na+]
reactant | ethyl 7,8-dimethoxypyrimido[4,5-b]quinolin-4(3H)-one-2-carboxylate | 0.01 mole, 3.3 g | COC=1C=C2C=C3C(=NC2=CC1OC)N=C(NC3=O)C(=O)OCC | C16H15N3O5
reactant | iodomethane | 0.015 mole, 2.1 g | IC | CH3I
solvent | N,N-dimethylformamide | 75ml | CN(C=O)C | C3H7NO
product | Ethyl 3-Methyl-7,8-Dimethoxypyrimido[4,5-b]quinolin-4(3H)-One-2-Carboxylate | CN1C(=NC2=NC3=CC(=C(C=C3C=C2C1=O)OC)OC)C(=O)OCC | C17H17N3O5
